US06069156
Methyl 1-(2-chlorobenzyl)-3-ethyl-2-propionylindole-6-carboxylate (66 mg) was prepared from methyl 3-ethyl-2-propionylindole-6-carboxylate (88 mg) and 2-chlorobenzyl bromide (0.051 ml) in a similar manner to that of Example 1.

reactant | methyl 3-ethyl-2-propionylindole-6-carboxylate | 88 mg | C(C)C1=C(NC2=CC(=CC=C12)C(=O)OC)C(CC)=O | C15H17NO3
reactant | 2-chlorobenzyl bromide | 0.051 ml | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
product | Methyl 1-(2-chlorobenzyl)-3-ethyl-2-propionylindole-6-carboxylate | 66 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)OC)CC)C(CC)=O)C=CC=C1 | C22H22ClNO3
